* C:\Users\Armin Beck\Documents\hw\githubHW.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 22.12.2017 06:53:42

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
D65  Net-_D100-Pad1_ Net-_D50-Pad2_ LED		
D64  Net-_D106-Pad1_ Net-_D50-Pad2_ LED		
D66  Net-_D101-Pad1_ Net-_D50-Pad2_ LED		
D67  Net-_D102-Pad1_ Net-_D50-Pad2_ LED		
D68  Net-_D103-Pad1_ Net-_D50-Pad2_ LED		
D69  Net-_D104-Pad1_ Net-_D50-Pad2_ LED		
D70  Net-_D105-Pad1_ Net-_D50-Pad2_ LED		
D72  Net-_D100-Pad1_ Net-_D57-Pad2_ LED		
D71  Net-_D106-Pad1_ Net-_D57-Pad2_ LED		
D73  Net-_D101-Pad1_ Net-_D57-Pad2_ LED		
D74  Net-_D102-Pad1_ Net-_D57-Pad2_ LED		
D75  Net-_D103-Pad1_ Net-_D57-Pad2_ LED		
D76  Net-_D104-Pad1_ Net-_D57-Pad2_ LED		
D77  Net-_D105-Pad1_ Net-_D57-Pad2_ LED		
D79  Net-_D100-Pad1_ Net-_D78-Pad2_ LED		
D78  Net-_D106-Pad1_ Net-_D78-Pad2_ LED		
D80  Net-_D101-Pad1_ Net-_D78-Pad2_ LED		
D81  Net-_D102-Pad1_ Net-_D78-Pad2_ LED		
D82  Net-_D103-Pad1_ Net-_D78-Pad2_ LED		
D83  Net-_D104-Pad1_ Net-_D78-Pad2_ LED		
D84  Net-_D105-Pad1_ Net-_D78-Pad2_ LED		
D86  Net-_D100-Pad1_ Net-_D85-Pad2_ LED		
D85  Net-_D106-Pad1_ Net-_D85-Pad2_ LED		
D87  Net-_D101-Pad1_ Net-_D85-Pad2_ LED		
D88  Net-_D102-Pad1_ Net-_D85-Pad2_ LED		
D89  Net-_D103-Pad1_ Net-_D85-Pad2_ LED		
D90  Net-_D104-Pad1_ Net-_D85-Pad2_ LED		
D91  Net-_D105-Pad1_ Net-_D85-Pad2_ LED		
D93  Net-_D100-Pad1_ Net-_D92-Pad2_ LED		
D92  Net-_D106-Pad1_ Net-_D92-Pad2_ LED		
D94  Net-_D101-Pad1_ Net-_D92-Pad2_ LED		
D95  Net-_D102-Pad1_ Net-_D92-Pad2_ LED		
D96  Net-_D103-Pad1_ Net-_D92-Pad2_ LED		
D97  Net-_D104-Pad1_ Net-_D92-Pad2_ LED		
D98  Net-_D105-Pad1_ Net-_D92-Pad2_ LED		
D100  Net-_D100-Pad1_ Net-_D100-Pad2_ LED		
D99  Net-_D106-Pad1_ Net-_D100-Pad2_ LED		
D101  Net-_D101-Pad1_ Net-_D100-Pad2_ LED		
D102  Net-_D102-Pad1_ Net-_D100-Pad2_ LED		
D103  Net-_D103-Pad1_ Net-_D100-Pad2_ LED		
D104  Net-_D104-Pad1_ Net-_D100-Pad2_ LED		
D105  Net-_D105-Pad1_ Net-_D100-Pad2_ LED		
D107  Net-_D100-Pad1_ Net-_D106-Pad2_ LED		
D106  Net-_D106-Pad1_ Net-_D106-Pad2_ LED		
D108  Net-_D101-Pad1_ Net-_D106-Pad2_ LED		
D109  Net-_D102-Pad1_ Net-_D106-Pad2_ LED		
D110  Net-_D103-Pad1_ Net-_D106-Pad2_ LED		
D111  Net-_D104-Pad1_ Net-_D106-Pad2_ LED		
D112  Net-_D105-Pad1_ Net-_D106-Pad2_ LED		
D114  Net-_D100-Pad1_ Net-_D113-Pad2_ LED		
D113  Net-_D106-Pad1_ Net-_D113-Pad2_ LED		
D115  Net-_D101-Pad1_ Net-_D113-Pad2_ LED		
D116  Net-_D102-Pad1_ Net-_D113-Pad2_ LED		
D117  Net-_D103-Pad1_ Net-_D113-Pad2_ LED		
D118  Net-_D104-Pad1_ Net-_D113-Pad2_ LED		
D119  Net-_D105-Pad1_ Net-_D113-Pad2_ LED		
D121  Net-_D100-Pad1_ Net-_D120-Pad2_ LED		
D120  Net-_D106-Pad1_ Net-_D120-Pad2_ LED		
D122  Net-_D101-Pad1_ Net-_D120-Pad2_ LED		
D123  Net-_D102-Pad1_ Net-_D120-Pad2_ LED		
D124  Net-_D103-Pad1_ Net-_D120-Pad2_ LED		
D125  Net-_D104-Pad1_ Net-_D120-Pad2_ LED		
D126  Net-_D105-Pad1_ Net-_D120-Pad2_ LED		
D2  Net-_D16-Pad1_ Net-_D1-Pad2_ LED		
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ LED		
D3  Net-_D10-Pad1_ Net-_D1-Pad2_ LED		
D4  Net-_D11-Pad1_ Net-_D1-Pad2_ LED		
D5  Net-_D12-Pad1_ Net-_D1-Pad2_ LED		
D6  Net-_D13-Pad1_ Net-_D1-Pad2_ LED		
D7  Net-_D14-Pad1_ Net-_D1-Pad2_ LED		
D9  Net-_D16-Pad1_ Net-_D10-Pad2_ LED		
D8  Net-_D1-Pad1_ Net-_D10-Pad2_ LED		
D10  Net-_D10-Pad1_ Net-_D10-Pad2_ LED		
D11  Net-_D11-Pad1_ Net-_D10-Pad2_ LED		
D12  Net-_D12-Pad1_ Net-_D10-Pad2_ LED		
D13  Net-_D13-Pad1_ Net-_D10-Pad2_ LED		
D14  Net-_D14-Pad1_ Net-_D10-Pad2_ LED		
D16  Net-_D16-Pad1_ Net-_D15-Pad2_ LED		
D15  Net-_D1-Pad1_ Net-_D15-Pad2_ LED		
D17  Net-_D10-Pad1_ Net-_D15-Pad2_ LED		
D18  Net-_D11-Pad1_ Net-_D15-Pad2_ LED		
D19  Net-_D12-Pad1_ Net-_D15-Pad2_ LED		
D20  Net-_D13-Pad1_ Net-_D15-Pad2_ LED		
D21  Net-_D14-Pad1_ Net-_D15-Pad2_ LED		
D23  Net-_D16-Pad1_ Net-_D22-Pad2_ LED		
D22  Net-_D1-Pad1_ Net-_D22-Pad2_ LED		
D24  Net-_D10-Pad1_ Net-_D22-Pad2_ LED		
D25  Net-_D11-Pad1_ Net-_D22-Pad2_ LED		
D26  Net-_D12-Pad1_ Net-_D22-Pad2_ LED		
D27  Net-_D13-Pad1_ Net-_D22-Pad2_ LED		
D28  Net-_D14-Pad1_ Net-_D22-Pad2_ LED		
D30  Net-_D16-Pad1_ Net-_D29-Pad2_ LED		
D29  Net-_D1-Pad1_ Net-_D29-Pad2_ LED		
D31  Net-_D10-Pad1_ Net-_D29-Pad2_ LED		
D32  Net-_D11-Pad1_ Net-_D29-Pad2_ LED		
D33  Net-_D12-Pad1_ Net-_D29-Pad2_ LED		
D34  Net-_D13-Pad1_ Net-_D29-Pad2_ LED		
D35  Net-_D14-Pad1_ Net-_D29-Pad2_ LED		
D37  Net-_D16-Pad1_ Net-_D36-Pad2_ LED		
D36  Net-_D1-Pad1_ Net-_D36-Pad2_ LED		
D38  Net-_D10-Pad1_ Net-_D36-Pad2_ LED		
D39  Net-_D11-Pad1_ Net-_D36-Pad2_ LED		
D40  Net-_D12-Pad1_ Net-_D36-Pad2_ LED		
D41  Net-_D13-Pad1_ Net-_D36-Pad2_ LED		
D42  Net-_D14-Pad1_ Net-_D36-Pad2_ LED		
D44  Net-_D16-Pad1_ Net-_D43-Pad2_ LED		
D43  Net-_D1-Pad1_ Net-_D43-Pad2_ LED		
D45  Net-_D10-Pad1_ Net-_D43-Pad2_ LED		
D46  Net-_D11-Pad1_ Net-_D43-Pad2_ LED		
D47  Net-_D12-Pad1_ Net-_D43-Pad2_ LED		
D48  Net-_D13-Pad1_ Net-_D43-Pad2_ LED		
D49  Net-_D14-Pad1_ Net-_D43-Pad2_ LED		
D51  Net-_D16-Pad1_ Net-_D50-Pad2_ LED		
D50  Net-_D1-Pad1_ Net-_D50-Pad2_ LED		
D52  Net-_D10-Pad1_ Net-_D50-Pad2_ LED		
D53  Net-_D11-Pad1_ Net-_D50-Pad2_ LED		
D54  Net-_D12-Pad1_ Net-_D50-Pad2_ LED		
D55  Net-_D13-Pad1_ Net-_D50-Pad2_ LED		
D56  Net-_D14-Pad1_ Net-_D50-Pad2_ LED		
D58  Net-_D16-Pad1_ Net-_D57-Pad2_ LED		
D57  Net-_D1-Pad1_ Net-_D57-Pad2_ LED		
D59  Net-_D10-Pad1_ Net-_D57-Pad2_ LED		
D60  Net-_D11-Pad1_ Net-_D57-Pad2_ LED		
D61  Net-_D12-Pad1_ Net-_D57-Pad2_ LED		
D62  Net-_D13-Pad1_ Net-_D57-Pad2_ LED		
D63  Net-_D14-Pad1_ Net-_D57-Pad2_ LED		
J2  Net-_D14-Pad1_ Net-_D13-Pad1_ Net-_D12-Pad1_ Net-_D11-Pad1_ Net-_D10-Pad1_ Net-_D16-Pad1_ Net-_D1-Pad1_ Conn_01x07		
J4  Net-_D14-Pad1_ Net-_D13-Pad1_ Net-_D12-Pad1_ Net-_D11-Pad1_ Net-_D10-Pad1_ Net-_D16-Pad1_ Net-_D1-Pad1_ Conn_01x07		
J3  Net-_D106-Pad1_ Net-_D100-Pad1_ Net-_D101-Pad1_ Net-_D102-Pad1_ Net-_D103-Pad1_ Net-_D104-Pad1_ Net-_D105-Pad1_ Conn_01x07		
J5  Net-_D106-Pad1_ Net-_D100-Pad1_ Net-_D101-Pad1_ Net-_D102-Pad1_ Net-_D103-Pad1_ Net-_D104-Pad1_ Net-_D105-Pad1_ Conn_01x07		
U3  Net-_D10-Pad2_ Net-_D15-Pad2_ Net-_D22-Pad2_ Net-_D29-Pad2_ Net-_D36-Pad2_ Net-_D43-Pad2_ Net-_D50-Pad2_ Net-_D57-Pad2_ Net-_D78-Pad2_ Net-_D85-Pad2_ Net-_D92-Pad2_ Net-_D100-Pad2_ Net-_D106-Pad2_ Net-_D113-Pad2_ Net-_D120-Pad2_ ? Net-_J6-Pad2_ /GSLCK +5V Net-_R1-Pad1_ +5V GND GND /LATCH /M_CLK Net-_J1-Pad2_ GND Net-_D1-Pad2_ TLC5940NT		
R1  Net-_R1-Pad1_ +5V R330		
J1  /M_CLK Net-_J1-Pad2_ +5V GND Conn_01x04		
J6  /M_CLK Net-_J6-Pad2_ +5V GND Conn_01x04		
U1  +5V GND /M_CLK /LATCH Net-_J1-Pad2_ /GSLCK ? ? ? Net-_RV1-Pad3_ Net-_SW4-Pad1_ Net-_SW3-Pad1_ Net-_SW2-Pad1_ Net-_SW1-Pad1_ Net-_U1-Pad15_ ? WeMos_mini		
SW1  Net-_SW1-Pad1_ +5V SW_Push		
SW2  Net-_SW2-Pad1_ +5V SW_Push		
SW3  Net-_SW3-Pad1_ +5V SW_Push		
SW4  Net-_SW4-Pad1_ +5V SW_Push		
RV1  ? +5V Net-_RV1-Pad3_ POT		
U2  ? +5V Net-_U1-Pad15_ Net-_D106-Pad1_ Net-_D100-Pad1_ Net-_D101-Pad1_ Net-_D102-Pad1_ +5V GND GND GND /LATCH /M_CLK Net-_D103-Pad1_ Net-_D104-Pad1_ Net-_D105-Pad1_ ? Net-_U2-Pad18_ GND ? TPIC6B595N		
U4  ? +5V Net-_U2-Pad18_ Net-_D105-Pad1_ Net-_D104-Pad1_ Net-_D103-Pad1_ Net-_D102-Pad1_ +5V GND GND GND /LATCH /M_CLK Net-_D101-Pad1_ Net-_D100-Pad1_ Net-_D106-Pad1_ ? ? GND ? TPIC6B595N		

.end
